US07666888B2
2-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}-1,2,3,4-tetrahydroisoquinoline-3-carboxamide
A solution of 5-(4-methylphenyl)isoxazole-4-carboxylic acid (20 mg, 0.1 mmol), TBTU (39 mg, 0.12 mmol, 1,2 equ.) and N-ethyl-N-isopropylpropan-2-amine (35 μL, 0.2 mmol, 2 equ) in DMF (1 mL) was added to 1,2,3,4-tetrahydroisoquinoline-3-carboxamide (18 mg, 0.1 mmol) and the reaction mixture was left at rt for 2 h. The solvent was evaporated and the crude product was purified by RP-HPLC. After evaporation of the solvents the product was dried in vacuum to yield the title compound (8 mg). MS (ESI, pos. ion) m/z calcd for C21H19N3O3: 361.1426, found 361.1418.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.1 mmol, 20 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | TBTU | 0.12 mmol, 39 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.2 mmol, 35 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1,2,3,4-tetrahydroisoquinoline-3-carboxamide | 0.1 mmol, 18 mg | C1NC(CC2=CC=CC=C12)C(=O)N | C10H12N2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}-1,2,3,4-tetrahydroisoquinoline-3-carboxamide | 8 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)N1CC2=CC=CC=C2CC1C(=O)N | C21H19N3O3
